US05338855
5-[4-(3-Chloro-1,4-naphthoquinon-2-yloxy)benzyl]thiazolidine-2,4-dione (Compound No. 2-20)
A mixture of 5.8 g of butyl 2-bromo-3-[4-(1,4-diacetoxy-3-chloro-2-naphthyloxy)phenyl]propiona te (prepared as described in Preparation 18), 1 g of thiourea and 10 ml of sulfolane was heated at 120° C. for 5 hours under an atmosphere of nitrogen. At the end of this time, 20 ml of ethylene glycol monomethyl ether and 10 ml of 2N aqueous hydrochloric acid were added to the mixture in the presence of atmospheric oxygen, and the resulting mixture was heated at 100° C. for 6 hours. The reaction mixture was then poured into water, after which it was extracted with benzene. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was then removed from the extract by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 4:1 by volume mixture of benzene and ethyl acetate as the eluent. About 2.4 g of the title compound were obtained by recrystallization from a mixture of tetrahydrofuran and hexane as crystals, melting at 250°-252° C.

reactant | butyl 2-bromo-3-[4-(1,4-diacetoxy-3-chloro-2-naphthyloxy)phenyl]propiona te | 5.8 g | BrC(C(=O)OCCCC)CC1=CC=C(C=C1)OC1=C(C2=CC=CC=C2C(=C1Cl)OC(C)=O)OC(C)=O | C27H26BrClO7
reactant | thiourea | 1 g | NC(=S)N | CH4N2S
reactant | sulfolane | 10 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
reactant | oxygen | O=O | O2
solvent | water | O | H2O
solvent | ethylene glycol monomethyl ether | 20 ml | COCCO | C3H8O2
product | 5-[4-(3-Chloro-1,4-naphthoquinon-2-yloxy)benzyl]thiazolidine-2,4-dione | 2.4 g | ClC1=C(C(C2=CC=CC=C2C1=O)=O)OC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C20H12ClNO5S
